US05447949
A mixture of 2-n-butyl-1-[(5-carbomethoxy-2-thienyl)methyl]imidazol-5-carboxaldehyde (0.5 g, 1.66 mmol), ethyl 2-carboxy-3-(2-thienyl)propionate (1.14 g, 4.99 mmol), piperidine (0.155 g, 1.83 mmol), 0.5 ml of pyridine in 50 ml of benzene were refluxed for 18 hours under argon in the presence of a Dean-Stark trap. The crude product was flash chromatographed over silica gel eluting with ethyl acetate/hexane (1:1) to give 0.474 g (49%) of ethyl (E)-3-[2-n-butyl-1-{(5-carbomethoxy-2-thienyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2propenoate.

reactant | 2-n-butyl-1-[(5-carbomethoxy-2-thienyl)methyl]imidazol-5-carboxaldehyde | 1.66 mmol, 0.5 g | C(CCC)C=1N(C(=CN1)C=O)CC=1SC(=CC1)C(=O)OC | C15H18N2O3S
reactant | ethyl 2-carboxy-3-(2-thienyl)propionate | 4.99 mmol, 1.14 g | C(=O)(O)C(C(=O)OCC)CC=1SC=CC1 | C10H12O4S
reactant | piperidine | 1.83 mmol, 0.155 g | N1CCCCC1 | C5H11N
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl (E)-3-[2-n-butyl-1-{(5-carbomethoxy-2-thienyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2propenoate | 0.474 g, 49% | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OCC)\CC=1SC=CC1)CC=1SC(=CC1)C(=O)OC | C24H28N2O4S2
